US07148218B2
q) Preparation of (2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-[(2S,3S,4S,5Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-hydroxy-2,4-dimethyl-5-heptenyl]-N,2,4,6-tetramethyl-7,9-decadienamide.
To a solution of (2Z,4S,5S,6S)-7-[[(2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]methylamino]-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-4,6-dimethyl-2-heptenoic acid methyl ester (1.77 g, 2.5 mmol) and CH2Cl2 (15 mL) cooled to −78° C., was added a solution consisting of diisobutylaluminum hydride (1.0 M in hexane, 7.5 mL, 7.5 mmol). After stirring at 40° C. for 4 h, the mixture is quenched by adding saturated potassium sodium tartrate (10 mL). The mixture is then extracted with CH2Cl2 (3×20 mL). The combined organic layers are then dried (Na2SO4), concentrated in vacuo, and chromatographed using silica gel eluted with hexane/EtOAc (70/30) to give the desired compound (1.04 mg, 61.4%) as a colorless glassy solid.

reactant | (2Z,4S,5S,6S)-7-[[(2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]methylamino]-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-4,6-dimethyl-2-heptenoic acid methyl ester | 2.5 mmol, 1.77 g | COC(\C=C/[C@@H]([C@@H]([C@H](CN(C)C([C@@H]([C@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)OC(=O)N)C)O[Si](C)(C)C(C)(C)C)C)=O)C)O[Si](C)(C)C(C)(C)C)C)=O | C37H70N2O7Si2
reactant | diisobutylaluminum hydride | 7.5 mmol, 1.0 M, 7.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S,4R,5S,6S,7Z)-5-[(aminocarbonyl)oxy]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-N-[(2S,3S,4S,5Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-7-hydroxy-2,4-dimethyl-5-heptenyl]-N,2,4,6-tetramethyl-7,9-decadienamide | 1.04 mg, 61.4% | NC(=O)O[C@H]([C@H]([C@@H]([C@H](C(=O)N(C)C[C@@H]([C@H]([C@H](\C=C/CO)C)O[Si](C)(C)C(C)(C)C)C)C)O[Si](C)(C)C(C)(C)C)C)[C@H](\C=C/C=C)C | C36H70N2O6Si2
